US07872097B2
Methyl-(6R,9S,12S,15S,18R,21S,24S,27S,30S,33S)-6-sec-butyl-33-[(1R)-1-hydroxyethyl]-30-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-9,12,21,24-tetraisobutyl-27-isopropyl-2,2,11,15,18,20,26,29,35-nonamethyl-4,7,10,13,16,19,22,25,28,31,34-undecaoxo-3-oxa-5,8,11,14,17,20,23,26,29,32,35-undecaazaheptatriacontan-37-oate (80 mg) was dissolved in 20% TFA/CH2Cl2 (2 ml) under ice-bath cooling. After being stirred at the same temperature for 4 hrs, to the solution was added saturated NaHCO3 aqueous solution to be pH 8. The mixture was extracted with CHCl3 (20 ml) and the organic layer was washed with saturated NaHCO3 and brine, dried over MgSO4, and concentrated in vacuo. The resulting residue was dissolved in MeOH (4 ml). To the solution was added 1N LiOH (0.60 ml) under ice-bath cooling. After being stirred for 1 hr at the same temperature, the solution was acidified with 5% citric acid aqueous solution to be pH5, concentrated in vacuo to remove MeOH, and extracted with CHCl3 (20 ml). The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The resulting residue was triturated with Et2O to give (5S,8S,11S,14S,17S,20R,23S,26S,29S,32R)-32-amino-5-[(1R)-1-hydroxyethyl]-8-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-14,17,26,29-tetraisobutyl-11-isopropyl-3,9,12,18,20,23,27,33-octamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-3,6,9,12,15,18,21,24,27,30-decaazapentatriacontan-1-oic acid (45 mg) as a solid.

reactant | Methyl-(6R,9S,12S,15S,18R,21S,24S,27S,30S,33S)-6-sec-butyl-33-[(1R)-1-hydroxyethyl]-30-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-9,12,21,24-tetraisobutyl-27-isopropyl-2,2,11,15,18,20,26,29,35-nonamethyl-4,7,10,13,16,19,22,25,28,31,34-undecaoxo-3-oxa-5,8,11,14,17,20,23,26,29,32,35-undecaazaheptatriacontan-37-oate | 80 mg | COC(CN(C([C@@H](NC([C@@H](N(C([C@@H](N(C([C@@H](NC([C@@H](N(C([C@H](NC([C@@H](NC([C@@H](N(C([C@@H](NC([C@H](NC(OC(C)(C)C)=O)C(C)CC)=O)CC(C)C)=O)C)CC(C)C)=O)C)=O)C)=O)C)CC(C)C)=O)CC(C)C)=O)C)C(C)C)=O)C)[C@@H]([C@@H](C\C=C\C)C)O)=O)[C@@H](C)O)=O)C)=O | C67H121N11O16
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | 2 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (5S,8S,11S,14S,17S,20R,23S,26S,29S,32R)-32-amino-5-[(1R)-1-hydroxyethyl]-8-[(1R,2R,4E)-1-hydroxy-2-methyl-4-hexen-1-yl]-14,17,26,29-tetraisobutyl-11-isopropyl-3,9,12,18,20,23,27,33-octamethyl-4,7,10,13,16,19,22,25,28,31-decaoxo-3,6,9,12,15,18,21,24,27,30-decaazapentatriacontan-1-oic acid | 45 mg | N[C@@H](C(N[C@H](C(N([C@H](C(N[C@H](C(N[C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N([C@H](C(N[C@H](C(N(CC(=O)O)C)=O)[C@@H](C)O)=O)[C@@H]([C@@H](C\C=C\C)C)O)C)=O)C(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)C)=O)C)=O)CC(C)C)C)=O)CC(C)C)=O)C(CC)C | C61H111N11O14
